US07354932B2
Compound 139: Preparation of Pyridine-2-carboxylic acid {3-[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-amide (hydrobromide)
To a stirred solution of picolinic acid (36.7 mg, 0.30 mmol) in anhydrous DMF (3 mL) was added N,N-diisopropylethylamine (0.10 mL, 0.6 mmol), HOBT (48.3 mg, 0.36 mmol), EDC (68.6 mg, 0.36 mmol) and N1-(1H-Benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydroquinolin-8-yl)-propane-1,3-diamine (100 mg, 0.30 mmol). The resultant solution was stirred at room temperature for 16 h. The reaction mixture was diluted with EtOAc (40 mL), brine (15 mL) and H2O (5 mL) and the two layers mixed vigorously for 15 minutes. The layers were separated and the organic layer washed with brine (5×15 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification of the beige foam by radial chromatography on a 1 mm TLC grade silica gel plate (CH2Cl2/MeOH/NH4OH, 50:1:1) gave the free base of the title compound (63.0 mg, 48%) as a white foam.

reactant | picolinic acid | 0.30 mmol, 36.7 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | N,N-diisopropylethylamine | 0.6 mmol, 0.10 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HOBT | 0.36 mmol, 48.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.36 mmol, 68.6 mg
reactant | N1-(1H-Benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydroquinolin-8-yl)-propane-1,3-diamine | 0.30 mmol, 100 mg | N1C(=NC2=C1C=CC=C2)CN(CCCN)C2CCCC=1C=CC=NC21 | C20H25N5
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | brine | 15 mL | [Cl-].[Na+].O
solvent | H2O | 5 mL | O | H2O
product | Pyridine-2-carboxylic acid {3-[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-amide | 63.0 mg, 48% | N1C(=NC2=C1C=CC=C2)CN(CCCNC(=O)C2=NC=CC=C2)C2CCCC=1C=CC=NC21 | C26H28N6O
